US20010020034A1
5-(3,3-Dimethyl-ureido)-3-heptyloxy-isothiazole-4-carboxylic acid amide
A suspension of 5-(3,3-Dimethyl-ureido)-3-hydroxy-isothiazole-4-carboxylic acid amide (200 mg, 0.87 mmol) in DMF (5 mL) was treated with KOtBu (107 mg, 0.96 mmol) at ambient temperature causing complete dissolution. Next was added 1-iodoheptane (1 mL) and the reaction stirred at ambient temperature until complete dissappearance of starting materials as measured by TLC using hexane/ethyl acetate/methanol/acetic acid (48/48/2/2) as eluent. The reaction mixture was then concentrated by rotary evaporation under high vacuum, the residue dissolved in ethyl acetate and methanol, and was then purified via radial chromatography (2 mm plate) using the same eluent as for TLC affording two components. The more polar material was identified as the N-alkyated adduct (102 mg, 0.311 mmol, 36%). 1H NMR (400 MHz, CDCl3) δ 0.86 (t, J=6.7 Hz, 3H), 1.25-1.31 (m, 8H), 1.64-1.70 (m, 2H), 3.07 (s, 6H), 3.68 (t, J=7.2 Hz, 2H), 5.40 (s, 1H), 8.86 (s, 1H), 12.1 (s, 1H) ppm; 13C NMR (101 MHz, CDCl3) δ 13.94, 22.45, 26.48, 28.74, 29.52, 31.52, 36.11, 42.54, 166.99 ppm; MS (APCl, m/z): 329 [M+H]+. The less polar material was the O-alkyated adduct (134 mg, 0.408 mmol, 48%). 1H NMR (400 MHz, CDCl3) δ 0.88 (t, J=6.8 Hz, 3H), 1.24-1.50 (m, 8H), 1.75-1.88 (m, 2H), 3.07 (s, 6H), 4.43 (t, J=6.7 Hz, 2H), 5.42 (s, 1H), 7.25 (s, 1H appears to be superimposed on CDCl3 peak), 11.6 (s, 1H) ppm; 13C NMR (101 MHz, CDCl3 ) δ 13.94, 22.45, 25.86, 28.83, 31.60, 36.11, 68.69, 97.69, 154.15, 162.27, 166.20, 169.45 ppm; MS (APCl, mlz): 329 [M+H]+.

reactant | 5-(3,3-Dimethyl-ureido)-3-hydroxy-isothiazole-4-carboxylic acid amide | 0.87 mmol, 200 mg | CN(C(NC1=C(C(=NS1)O)C(=O)N)=O)C | C7H10N4O3S
reactant | KOtBu | 0.96 mmol, 107 mg | CC(C)(C)[O-].[K+]
reactant | 1-iodoheptane | 1 mL | ICCCCCCC | C7H15I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate methanol acetic acid | CCCCCC.C(C)(=O)OCC.CO.C(C)(=O)O
product | 5-(3,3-Dimethyl-ureido)-3-heptyloxy-isothiazole-4-carboxylic acid amide | CN(C(NC1=C(C(=NS1)OCCCCCCC)C(=O)N)=O)C | C14H24N4O3S
